US06043366
8-Cyclodecyl-3-(3-phenyl-1-propyl)-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:1)
The title compound, white solid, m.p. 164° C. and MS: m/e=488.4 (M+H+) was prepared in accordance with the general method of example 24 from 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride and 3-phenyl-1-propylbromide.

reactant | 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | 3-phenyl-1-propylbromide | C1(=CC=CC=C1)CCCBr | C9H11Br
product | 8-Cyclodecyl-3-(3-phenyl-1-propyl)-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(N(CN2C2=CC=CC=C2)CCCC2=CC=CC=C2)=O)CC1 | InChI=1S/C32H45N3O.ClH/c36-31-32(22-25-33(26-23-32)29-18-10-4-2-1-3-5-11-19-29)35(30-20-12-7-13-21-30)27-34(31)24-14-17-28-15-8-6-9-16-28;/h6-9,12-13,15-16,20-21,29H,1-5,10-11,14,17-19,22-27H2;1H
